Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
paracentesis

 
History of Present Illness:
___ yo G0 woman who is s/p egg retrieval ___ who presented
to the ED with significant lower abdominal pain. She reports b/l
lower pelvic and back pain starting post procedure. Yesterday,
her pain increased throughout the day and noted abd bloating. By
last evening, she had difficulty ambulating due to pain and was
not able to sleep well. No CP/SOB. She has nausea with emesis in
the setting of pain last night and today. She last had a few
bites of food at 1200 today. She reports feeling feverish
intermittently at home, did not take temperature. not feeling
feverish now. No recent intercourse. no vaginal bleeding, abnl
vaginal discharge, dysuria, hematuria, diarrhea.

In the ED, her pain is significantly improved after 4mg IV
morphine, 2L IVF. No N/V. mild R>L lower abd discomfort and
bloating at rest. 

 
Past Medical History:
OBHx:
- G0
 
GynHx:
- infertility s/p egg retrieval ___

PMH: 
- infertility 

PSH: 
- egg retrieval ___          

 
Social History:
___
Family History:
denies bleeding/clotting disorders

 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Ext: no TTP
 
Pertinent Results:
___ 08:06AM BLOOD WBC-8.0 RBC-4.20 Hgb-11.7 Hct-33.1* 
MCV-79* MCH-27.9 MCHC-35.3 RDW-14.3 RDWSD-40.3 Plt ___
___ 03:20PM BLOOD WBC-12.2* RBC-4.47 Hgb-12.1 Hct-35.0 
MCV-78* MCH-27.1 MCHC-34.6 RDW-14.5 RDWSD-40.0 Plt ___
___ 04:30AM BLOOD WBC-15.7* RBC-5.25* Hgb-14.2 Hct-41.6 
MCV-79* MCH-27.0 MCHC-34.1 RDW-14.5 RDWSD-41.0 Plt ___
___ 10:55AM BLOOD WBC-21.8* RBC-6.11* Hgb-16.5* Hct-48.4* 
MCV-79* MCH-27.0 MCHC-34.1 RDW-15.2 RDWSD-40.5 Plt ___
___ 04:40AM BLOOD WBC-19.6* RBC-6.06* Hgb-16.3* Hct-47.6* 
MCV-79* MCH-26.9 MCHC-34.2 RDW-14.8 RDWSD-40.3 Plt ___
___ 09:00PM BLOOD WBC-19.5* RBC-5.70* Hgb-15.5 Hct-45.3* 
MCV-80* MCH-27.2 MCHC-34.2 RDW-14.4 RDWSD-40.4 Plt ___
___ 03:13PM BLOOD WBC-21.5* RBC-6.38* Hgb-17.4* Hct-50.9* 
MCV-80* MCH-27.3 MCHC-34.2 RDW-15.4 RDWSD-41.2 Plt ___
___ 08:06AM BLOOD Neuts-71.4* ___ Monos-6.8 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-5.73# AbsLymp-1.73 
AbsMono-0.55 AbsEos-0.00* AbsBaso-0.01
___ 03:13PM BLOOD Neuts-86.4* Lymphs-9.8* Monos-3.1* 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-18.56* AbsLymp-2.10 
AbsMono-0.66 AbsEos-0.00* AbsBaso-0.03
___ 04:30AM BLOOD ___ PTT-22.3* ___
___ 03:13PM BLOOD ___ PTT-23.5* ___
___ 08:06AM BLOOD Glucose-96 UreaN-10 Creat-0.6 Na-130* 
K-3.9 Cl-102 HCO3-22 AnGap-10
___ 03:20PM BLOOD Glucose-119* UreaN-20 Creat-0.9 Na-129* 
K-4.1 Cl-101 HCO3-19* AnGap-13
___ 04:30AM BLOOD Glucose-138* UreaN-21* Creat-0.8 Na-130* 
K-4.6 Cl-103 HCO3-15* AnGap-17
___ 10:55AM BLOOD Glucose-128* UreaN-21* Creat-1.0 Na-130* 
K-5.0 Cl-102 HCO3-15* AnGap-18
___ 04:40AM BLOOD Glucose-145* UreaN-17 Creat-0.8 Na-128* 
K-4.3 Cl-97 HCO3-16* AnGap-19
___ 09:00PM BLOOD Glucose-118* UreaN-14 Creat-0.6 Na-130* 
K-4.4 Cl-103 HCO3-17* AnGap-14
___ 03:13PM BLOOD Glucose-136* UreaN-14 Creat-0.9 Na-133 
K-4.6 Cl-96 HCO3-21* AnGap-21*
___ 08:06AM BLOOD ALT-48* AST-39
___ 03:20PM BLOOD ALT-48* AST-47*
___ 04:30AM BLOOD ALT-48* AST-43*
___ 03:13PM BLOOD ALT-18 AST-16 AlkPhos-55 TotBili-0.6
___ 03:13PM BLOOD Lipase-15
___ 08:06AM BLOOD Albumin-3.1* Calcium-7.8* Phos-1.8* 
Mg-2.4
___ 03:20PM BLOOD Calcium-7.7* Phos-2.6* Mg-2.2
___ 04:30AM BLOOD Albumin-2.9* Calcium-7.6* Phos-3.4 Mg-2.0
___ 10:55AM BLOOD Calcium-8.1* Phos-3.8 Mg-2.0
___ 04:40AM BLOOD Albumin-3.3* Calcium-7.9* Phos-3.9 Mg-1.9
___ 09:00PM BLOOD Albumin-3.1* Calcium-8.1* Phos-3.4 Mg-1.8
___ 03:13PM BLOOD Albumin-3.6
___ 03:20PM BLOOD ___ pO2-27* pCO2-39 pH-7.35 
calTCO2-22 Base XS--4
___ 10:02PM BLOOD Lactate-1.5
___ 03:20PM BLOOD Lactate-3.0*
___ 03:20PM BLOOD O2 Sat-42
___ 10:29AM URINE Color-Yellow Appear-Hazy Sp ___
___ 10:29AM URINE Blood-SM  Nitrite-NEG Protein-30 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-2* pH-6.0 Leuks-LG
___ 10:29AM URINE RBC-12* WBC-17* Bacteri-FEW Yeast-NONE 
Epi-13 TransE-<1
___ 10:29AM URINE CastHy-4*
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
with abdominal pain, nausea, and vomiting 2 days after an egg 
retrieval, concerning for ovarian hyper stimulation syndrome.  
Initial pelvic ultrasound showed enlarged ovaries bilaterally, 
with normal dopplers.  There did not appear to be a large amount 
of drainable pelvic fluid.  She was initially found to be 
hemoconcentrated, with a hematocrit of 50.  She also had mild 
hyponatremia and a transaminitis.  She was started on 
cabergoline for a 10 day course (___-).  She also received sub 
cutaneous heparin for DVT prophylaxis in the setting of 
hemoconcentration.  She required IV dilaudid and PO oxycodone, 
on top of tylenol and ibuprofen, for pain control.  She was 
noted to be tachycardic to the 110's, so she was monitored on 
telemetry without arrhythmias.  Labs were trended.  Repeat 
ultrasound on ___ was stable.  

Due to persistent abdominal distention, nausea, and abdominal 
pain, she underwent therapeutic paracentesis on ___, during 
which 3 liters of fluid were drained.  Gram stain of her fluid 
was negative - cultures were preliminarily negative (pending at 
time of discharge).  She also received 50 g of albumin on 
___.  Her symptoms of abdominal distention drastically 
improved following paracentesis.  Her diet was gradually 
advanced, and she required no narcotic pain medication.  
Initially, following the procedure, she was hypotensive to the 
the high 80's/40's and tachycardia to the 110's, but she was 
asymptomatic from a cardiopulmonary standpoint and EKG was 
notable for normal sinus rhythm.  Her vitals improved once she 
PO hydrated.  EKG was notable for normal sinus rhythm.  She was 
kept on telemetry, which was reassuring.  Her urine output, 
which was low prior to the procedure, improved with PO 
hydration.  Her labs were trended throughout her stay - her 
hematocrit downtrended, and her hyponatremia and transaminitis 
were stable.  

By ___, she was tolerating a regular diet, voiding 
spontaneously with adequate urine output, ambulating 
independently, and pain was controlled with oral, non narcotic, 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled for ___ (also for repeat 
labs).
 
Medications on Admission:
crinone, estradiol

 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
Do not exceed 4g in 24 hours  
RX *acetaminophen 500 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*60 Tablet Refills:*0 
2.  cabergoline 0.5 mg oral DAILY Duration: 10 Days 
RX *cabergoline 0.5 mg 1 tablet(s) by mouth once a day Disp #*10 
Tablet Refills:*0 
3.  Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take medication with food  
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*45 Tablet Refills:*0 
4.  Ondansetron ___ mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ovarian hyperstimulation syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecology service for abdominal pain. 
you were diagnosed with ovarian hyperstimulation syndrome. You 
had a pelvic ultrasound which showed enlarged ovaries 
bilaterally. You underwent paracentesis (draining of the fluid 
that collected in your belly) and were observed with improvement 
in your symptoms. The team feels it is safe for you to be 
discharged home. 

Please follow these instructions:
* Pelvic rest - nothing in the vagina for at least a week, 
unless cleared by Dr. ___.
* Limit oral fluid intake to less than 2 liters per day (less 
than a few regular sized water bottles) - this will help 
decrease the fluid in your belly. 
* Use Tylenol and Ibuprofen as needed for abdominal discomfort. 
Use Zofran as needed for nausea.
* Do not eat or drink anything after 6am on ___, 
before your follow-up appointment with Dr. ___.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* significantly worsening bloating or abdominal fullness
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___